US07589204B2
An acetone solution of tert-butyl [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methyl(methyl)carbamate (14.33 g, 41.24 mmole), para-toluene sulfonic acid (1 equivalent) and 50 ml of water were stirred overnight at room temperature. Evaporation of the acetone resulted in an oily slurry. Ether was added and washed with water, followed by NaHCO3 sat. and dried over MgSO4. Evaporation of the ether followed by flash chromatography on silica with 15% EtOAc and hexanes afforded 6.9383 g of tert-butyl methyl{[1-(2-oxoethyl)-2,3-dihydro-1H-inden-1-yl]methyl}carbamate as an oil.

reactant | acetone | CC(=O)C | C3H6O
reactant | tert-butyl [1-(1,3-dioxolan-2-ylmethyl)-2,3-dihydro-1H-inden-1-yl]methyl(methyl)carbamate | 41.24 mmole, 14.33 g | O1C(OCC1)CC1(CCC2=CC=CC=C12)CN(C(OC(C)(C)C)=O)C | C20H29NO4
reactant | para-toluene sulfonic acid | 1 equivalent | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | 50 ml | O | H2O
solvent | Ether | CCOCC | C4H10O
product | tert-butyl methyl{[1-(2-oxoethyl)-2,3-dihydro-1H-inden-1-yl]methyl}carbamate | 6.9383 g | CN(C(OC(C)(C)C)=O)CC1(CCC2=CC=CC=C12)CC=O | C18H25NO3
